US07282494B2
1-(5,6-Dibromo-3-pyridyl)-4-tert-butoxycarbonylhomopiperazine (Compound 2F19)
A mixture of 1-(5-bromo-3-pyridyl)-4-tert-butoxycarbonylhomopiperazine (2.68 g, 7.5 mmol), N-bromosuccinimide (1.34 g, 7.5 mmol) and acetonitrile (75 ml) was stirred for 30 minutes. The crude mixture was evaporated and purified by chromatography on silica gel using ethyl acetate: petroleum (2:1) as solvent. Yield 3.0 g, 92%.

reactant | 1-(5-bromo-3-pyridyl)-4-tert-butoxycarbonylhomopiperazine | 7.5 mmol, 2.68 g | BrC=1C=C(C=NC1)N1CCN(CCC1)C(=O)OC(C)(C)C | C15H22BrN3O2
reactant | N-bromosuccinimide | 7.5 mmol, 1.34 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 75 ml | C(C)#N | C2H3N
product | 1-(5,6-Dibromo-3-pyridyl)-4-tert-butoxycarbonylhomopiperazine | BrC=1C=C(C=NC1Br)N1CCN(CCC1)C(=O)OC(C)(C)C | C15H21Br2N3O2
